US05302585
(R)-9-[3-Hydroxy-2-(phosphonomethoxy)propyl]guanine [(R)-HPMPG]
A solution of (R)9-[2-[(diisopropylphosphono)methoxy]3-hydroxypropyl]guanine (0.20 g, 0.50 mmol) in 5 mL of dry acetonitrile was treated with trimethylsilylbromide (0.99 g, 6.45 mmol) under nitrogen atmosphere. The resulting solution was protected from light and stirred at room temperature for 14 hours. The solvent was removed under reduced pressure, and the residue was dried under vacuum. To the residue, water (1 mL) and acetone (4 mL) were added. The mixture was stirred at room temperature overnight and then the solvent removed. The residue was triturated with methylene chloride and filtered. The collected solid was recrystallized from water-methanol to give 127 mg (80% yield) of the title compound as white crystals: mp 249° C. (dec.).

reactant | (R)9-[2-[(diisopropylphosphono)methoxy]3-hydroxypropyl]guanine | 0.50 mmol, 0.20 g | C(C)(C)OP(=O)(OC(C)C)CO[C@H](CN1C=2N=C(NC(C2N=C1)=O)N)CO | C15H26N5O6P
reactant | trimethylsilylbromide | 6.45 mmol, 0.99 g | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (R)-9-[3-Hydroxy-2-(phosphonomethoxy)propyl]guanine | 127 mg, 80% yield | OC[C@@H](CN1C=2N=C(NC(C2N=C1)=O)N)OCP(=O)(O)O | C9H14N5O6P
